US08871943B2
To a mixture of 4,5-dichloro-6-phenylpicolinic acid (3.00 g, 11.2 mmol) in toluene (40 mL) was added thionyl chloride (1.22 mL, 16.8 mmol) and dimethylformamide (0.04 mL, 0.6 mmol). Reaction mixture was heated at 80° C. for 3 h. HPLC analysis of an aliquot of the reaction mixture treated with methanol and dimethylaminopyridine indicated complete conversion of the starting material. Reaction was allowed to cool to room temperature and concentrated under reduced pressure to provide a white solid. Toluene (40 mL) was added to dissolve the solid and concentrated under reduced pressure and then this process was performed a second time. 4,5-Dichloro-6-phenylpicolinoyl chloride was isolated as a white solid (2.84 g, 89% yield). 1H NMR (400 MHz, CDCl3) δ 8.14 (s, 1H), 7.83-7.75 (m, 2H), 7.55-7.47 (m, 3H); 13C NMR (101 MHz, CDCl3) δ 168.80, 158.88, 146.42, 145.21, 136.79, 134.40, 129.98, 129.61, 128.31, 124.74; MS: Calcd. for C12H6Cl3NO: 284.95. Found: 285 (M+), 250, 222, 187, 152; mp=106-111° C.

reactant | 4,5-dichloro-6-phenylpicolinic acid | 11.2 mmol, 3.00 g | ClC1=CC(=NC(=C1Cl)C1=CC=CC=C1)C(=O)O | C12H7Cl2NO2
reactant | thionyl chloride | 16.8 mmol, 1.22 mL | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 0.6 mmol, 0.04 mL | CN(C=O)C | C3H7NO
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | 4,5-Dichloro-6-phenylpicolinoyl chloride | ClC1=CC(=NC(=C1Cl)C1=CC=CC=C1)C(=O)Cl | C12H6Cl3NO
